US05834506
3-[2-tert-Butyl-4-(2-hydroxy-ethoxy)-5-methyl-phenylsulfanyl]-4-hydroxy-6,6-bis [2-(4-hydroxy-3-methoxy-phenyl)-ethyl]-5,6-dihydro-pyran-2-one
The compound was prepared using General Method 9 and the following quantities: 100 mg (0.24 mmol) of 4-hydroxy-6,6-bis-[2-(4-hydroxy-3-methoxy-phenyl)-ethyl]-5,6-dihydro-pyran-2-one (prepared in Example QQ), 123 mg (0.24 mol) of toluene-4-thiosulfonic acid S-{2-tert-butyl-4-[2-(tert-butyl-dimethyl-silanyloxy)-ethoxy]-5-methyl-phenyl} ester (prepared in Example PPP), 133 mg (0.96 mmol) of K2 CO3, and 10 mL of DMF. The reaction was worked up by addition of 10 mL 1.0N HCl and stirring for 10 minutes, followed by extraction with EtOAc. The organic layer was dried (Na2SO4), concentrated, and chromatographed on silica gel, eluting with (1:1 CH2Cl2 :EtOAc+2% MeOH), to give the title compound, m.p. 76°-82° C. 1H NMR (DMSO-d6) δ 1.5 (s, 9 H), 1.75 (s, 3 H), 2.05 (m, 4 H), 2.6 (m, 4 H), 2.95 (s, 2 H), 3.7 (m, 8 H), 3.95 (t, 2 H), 4.8 (br s, 1 H), 6.65 (m, 7 H), 7.0 (s, 1 H), 8.75 (s, 2 H).

reactant | 4-hydroxy-6,6-bis-[2-(4-hydroxy-3-methoxy-phenyl)-ethyl]-5,6-dihydro-pyran-2-one | 0.24 mmol, 100 mg | OC1=CC(OC(C1)(CCC1=CC(=C(C=C1)O)OC)CCC1=CC(=C(C=C1)O)OC)=O | C23H26O7
reactant | toluene-4-thiosulfonic acid S-{2-tert-butyl-4-[2-(tert-butyl-dimethyl-silanyloxy)-ethoxy]-5-methyl-phenyl} ester | 0.24 mol, 123 mg | C(C)(C)(C)C1=C(C=C(C(=C1)OCCO[Si](C)(C)C(C)(C)C)C)SS(=O)(=O)C1=CC=C(C=C1)C | C26H40O4S2Si
reactant | HCl | 1.0N, 10 mL | Cl | ClH
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 3-[2-tert-Butyl-4-(2-hydroxy-ethoxy)-5-methyl-phenylsulfanyl]-4-hydroxy-6,6-bis [2-(4-hydroxy-3-methoxy-phenyl)-ethyl]-5,6-dihydro-pyran-2-one | C(C)(C)(C)C1=C(C=C(C(=C1)OCCO)C)SC=1C(OC(CC1O)(CCC1=CC(=C(C=C1)O)OC)CCC1=CC(=C(C=C1)O)OC)=O | C36H44O9S
